US07351826B2
Step 3. Preparation of (6-Methyl-5-propyl-pyrimidin-4-yl)-hydrazine
A mixture of 5-propyl-4-chloro-6-methyl-pyrimidine (10 mmol) and hydrazine monohydrate (30 mmol) in ethanol (20 mL) is heated at 80° C. overnight. Solvent is removed in vacuo and the residue solid is in the next step without further purification.

reactant | 5-propyl-4-chloro-6-methyl-pyrimidine | 10 mmol | C(CC)C=1C(=NC=NC1C)Cl | C8H11ClN2
reactant | hydrazine monohydrate | 30 mmol | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (6-Methyl-5-propyl-pyrimidin-4-yl)-hydrazine | CC1=C(C(=NC=N1)NN)CCC | C8H14N4
